US06340759B1
(282-3) 4-(4-Ethylpiperazin-1-yl)-6-[4-(1-hydroxypropyl)phenyl]thieno[3,2-c]pyridin
To a solution of 4-(4-ethylpiperazin-1-yl)-6-(4-formylphenyl)thieno[3,2-c]pyridine (0.20 g) in tetrahydrofuran (20 ml) was added 3M ethylmagnesium bromide/diethyl ether solution (0.5 ml), and the mixture was reacted at room temperature for 30 min. To the resulting reaction solution was added an aqueous solution of ammonium chloride, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, and dried. The resulting product was filtered through NH silica gel and washed with ethyl acetate. The filtrate was concentrated, to give 0.17 g of the title compound as white crystals.

reactant | 4-(4-ethylpiperazin-1-yl)-6-(4-formylphenyl)thieno[3,2-c]pyridine | 0.20 g | C(C)N1CCN(CC1)C1=NC(=CC2=C1C=CS2)C2=CC=C(C=C2)C=O | C20H21N3OS
reactant | ethylmagnesium bromide diethyl ether | 3M, 0.5 ml | C(C)[Mg]Br.C(C)OCC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-(4-Ethylpiperazin-1-yl)-6-[4-(1-hydroxypropyl)phenyl]thieno[3,2-c]pyridin | 0.17 g | C(C)N1CCN(CC1)C1=NC(=CC2=C1C=CS2)C2=CC=C(C=C2)C(CC)O | C22H27N3OS
